US07208494B2
(4R,9aR)-6-Chloro-7-ethoxy-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
To a solution of 0.30 g (0.82 mmol) (R)-6-chloro-7-ethoxy-4-methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 6 mL acetic acid 0.26 g (4.10 mmol) sodium cyanoborohydride was added. After 1 h the reaction was poured into 10% aqueous sodium bicarbonate solution and extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was purified by column chromatography over silica gel with ethyl acetate:n-hexane (1:2) as eluant to yield the product as a light yellow oil (96.8%).

reactant | (R)-6-chloro-7-ethoxy-4-methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.82 mmol, 0.30 g | C(C)(C)(C)OC(=O)N1CC2=CC3=CC(=C(N=C3N2[C@@H](C1)C)Cl)OCC | C18H24ClN3O3
reactant | acetic acid | 4.10 mmol, 6 mL, 0.26 g | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (4R,9aR)-6-Chloro-7-ethoxy-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 96.8% | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)Cl)OCC | C18H26ClN3O3
